US08476300B2
2-bromothiophene-3-carbonyl chloride
Add thionyl chloride (0.35 mL, 4.80 mmol) to a solution of 2-bromothiophene-3-carboxylic acid (500 mg, 2.41 mmol) and toluene (20 mL) with stirring. Purge the reaction vessel with nitrogen. Heat the mixture to reflux and stir for 3 hours. Concentrate the mixture to obtain the title compound (540 mg, 2.41 mmol). Use compound in next procedure without further purification.

reactant | thionyl chloride | 4.80 mmol, 0.35 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromothiophene-3-carboxylic acid | 2.41 mmol, 500 mg | BrC=1SC=CC1C(=O)O | C5H3BrO2S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromothiophene-3-carbonyl chloride | 2.41 mmol, 540 mg | BrC=1SC=CC1C(=O)Cl | C5H2BrClOS
